US04443449
A solution in ether (80 ml) of 2-[1-(3,4-dichlorophenyl)cyclobutyl]acetonitrile (23 g) prepared in a similar manner to that described in Example 1 for 2-[1-(4-chlorophenyl)cyclobutyl]acetonitrile was added to the product of the reaction between magnesium turnings (3.53 g) and ethyl bromide (10.8 ml) in dry ether (80 ml) with stirring whilst heating on a steam bath. The ether was removed and replaced with toluene and the mixture heated under reflux for one hour. Water was added and the mixture added to a mixture of ice and concentrated hydrochloric acid. The mixture was heated on a steam bath for one hour and filtered through a diatomaceous earth sold under the Registered Trade Mark CELITE. The filtrate was extracted with dichloromethane and the extract washed with water and sodium bicarbonate solution and dried. The solvent was removed by evaporation and the residue distilled to give 1-[1-(3,4-dichlorophenyl)cyclobutyl]butan-2-one (b.p. 149°-150°/1.1 mm Hg).

reactant | 2-[1-(3,4-dichlorophenyl)cyclobutyl]acetonitrile | 23 g | ClC=1C=C(C=CC1Cl)C1(CCC1)CC#N | C12H11Cl2N
reactant | 2-[1-(4-chlorophenyl)cyclobutyl]acetonitrile | ClC1=CC=C(C=C1)C1(CCC1)CC#N | C12H12ClN
reactant | magnesium | 3.53 g | [Mg] | Mg
reactant | ethyl bromide | 10.8 ml | C(C)Br | C2H5Br
reactant | ether | 80 ml | CCOCC | C4H10O
reactant | ether | 80 ml | CCOCC | C4H10O
product | 1-[1-(3,4-dichlorophenyl)cyclobutyl]butan-2-one | ClC=1C=C(C=CC1Cl)C1(CCC1)CC(CC)=O | C14H16Cl2O
